### PR TITLE
first attempt at formalizing second proof of mantel, p.146

### PR DESCRIPTION
**Pull request by ooovi**
there's a few `TODO`s where i think there's probably a prettier way to do it. also, you don't seem to be using `aesop` a lot in finished proofs, should i try to avoid it? what about `simp`? `linarith`? i'll add some more explanatory comments once my `TODO`s are gone.

### CODE REVIEW

**Comment by FordUniver** [comment]
Hey, very nice! `simp`, `linarith`, `ring`, `aesop` are all valid and in fact in particular the infinitude of primes proof should probably use them a lot more to make them cleaner and more stable to mathlib changes.

**Comment by FordUniver** [comment]
And yes, notation should probably go into TheBook.GraphTheory.Basic, but I've not been able to make that work (yet).

File: TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+
+-- The inequality of the arithmetic and geometric mean.
+lemma am_gm (a b : ℕ) : 4 * a * b ≤ (a + b)^2 := by
+  have := two_mul_le_add_sq a b -- mathlib version of the am-gm.
+  linarith
+
+-- Mantel's Theorem
+theorem mantel (h: G.CliqueFree 3) (maxA : G.IsMaximumIndependentSet A) : #E ≤ (n^2 / 4) := by
+
+  have := calc #E
```
Comment (FordUniver) [inline TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean:57]: gib dieser und der nächsten Aussage mal einen Namen anstatt `this`

File: TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+  have := calc #E * 4 -- TODO how annoying
+   _ = 4 * #E                 := mul_comm _ _
+   _ ≤ 4 * ((#V - #A) * #A)   := by simp_all; exact this
+   _ = 4 * (#V - #A) * #A     := (mul_assoc _ _ _).symm
+   _ ≤ ((#V - #A) + #A)^2     := am_gm (#V - #A) (#A)
+   _ = (#V)^2                 := by rw [Nat.sub_add_cancel];
+                                    exact (Finset.card_le_card (Finset.subset_univ A))
+   _ = n^2                    := by simp only [Finset.card_univ]
+
+  exact ((Nat.le_div_iff_mul_le' (by simp)).mpr this)
```
Comment (FordUniver) [inline TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean:74]: Gibt es hier kein rechte Variante von `Nat.le_div_iff_mul_le'`? Dadurch ließe sich das `#E * 4 = 4 * #E` vermeiden. Falls Nein => PR.

File: TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+  calc
+    #E = ∑ e ∈ E, 1                                := by simp
+     _ ≤ ∑ e ∈ E, #{ i ∈ (V \ A) | i ∈ e }         := Finset.sum_le_sum one_geq_n_adj_verts
+     _ = ∑ e ∈ E, ∑ i ∈ {i ∈ (V \ A) | i ∈ e}, 1   := by simp
+     _ = ∑ i ∈ V \ A, ∑ e ∈ {e ∈ E | i ∈ e}, 1     := Finset.sum_sum_bipartiteAbove_eq_sum_sum_bipartiteBelow _ _
+     _ = ∑ i ∈ V \ A, #{e ∈ E | i ∈ e}             := by simp
+     _ = ∑ i ∈ V \ A, d(i)                         := Finset.sum_congr (by rfl) (fun i _ => n_adj_edges_eq_deg i)
+
+-- The inequality of the arithmetic and geometric mean.
+lemma am_gm (a b : ℕ) : 4 * a * b ≤ (a + b)^2 := by
```
Comment (FordUniver) [inline TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean:50]: Kannst du das als eigene Aussage vermeiden? Probier mal, dass inline in Zeile 69 zu machen

File: TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean [hunk 4]
```diff
@@ -0,0 +1,76 @@
...
+-- The degree of a vertex i is less or equal α, the size of a maximum independent set.
+lemma nbhd_ind_of_triangle_free (h: G.CliqueFree 3): G.IsIndependentSet N(i) := by
+  simp [Set.coe_toFinset, G.isIndependentSet_neighborSet_if_triangleFree h,
+  SimpleGraph.neighborFinset, SimpleGraph]
+
+-- We count the edges of G by counting the endvertices in B.
+lemma count_edges_by_B {A : Finset α} (indA : G.IsIndependentSet A) : #E ≤ ∑ i ∈ V \ A, d(i) := by
+
+  -- The number of edges adjacent to i is the degree of i. -- TODO duh?
+  have n_adj_edges_eq_deg (i : α) : #{e ∈ E | i ∈ e} = d(i) := by
```
Comment (FordUniver) [inline TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean:33]: Evtl geht das auch inline mit simp?

File: TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean (hunk 2 above)
Comment (ooovi) [reply TheBook/GraphTheory/Mantel/ArithmeticGeometricMean.lean:74]: i'm a bit confused, i found these two:
` Nat.le_div_iff_mul_le:
theorem ∀ {k x y : Nat}, 0 < k → (x ≤ y / k ↔ x * k ≤ y)`
and
` Nat.le_div_iff_mul_le':
 theorem ∀ {a b c : ℕ}, 0 < b → (a ≤ c / b ↔ a * b ≤ c)`
i feel like one of these should be what we want here, but instead they are the same. am i missing something? otherwise maybe i'll file an issue and make a pr to mathlib?

**Review by FordUniver — APPROVED** [review]
